US20010025047A1
Ethyl 4-[(4-methoxybenzenesulfonyl)pyridin-3-ylmethylamino]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate
To a solution of 1.39 g (5 mmol) of (4-methoxybenzenesulfonyl)(3-pyridinylmethyl) amine in 4 ml of anhydrous 1-methyl-2-pyrrolidinone was added 0.2 g (5 mmol) of sodium hydride (60% in oil) and the mixture stirred at room temperature until gas evolution ceased. To this mixture was added 1.15 g (4.54 mmol) of ethyl 4-chloro-1,3-dimethylpyrazolo[3,4-b]pyridine-5-carboxylate and 2 ml of anhydrous 1-methyl-2-pyrrolidinone. The mixture was stirred in a sealed tube under nitrogen in an oil bath at 90° C. for 3 days. The mixture was cooled, poured into water and extracted with ethyl acetate. The extract was washed with H2O, brine and dried (Na2SO4). The solution was filtered through a thin pad of hydrous magnesuim silicate and the filter pad washed with ethyl acetate. The filtrate was concentrated to dryness under vacuum to give 1.3 g of solid. Chromatography on silica gel with ethyl acetate as solvent gave 0.35 g of product as a solid, mp 152-154° C.

reactant | (4-methoxybenzenesulfonyl)(3-pyridinylmethyl) amine | 5 mmol, 1.39 g | COC1=CC=C(C=C1)S(=O)(=O)NCC=1C=NC=CC1 | C13H14N2O3S
reactant | sodium hydride | 5 mmol, 0.2 g | [H-].[Na+]
reactant | ethyl 4-chloro-1,3-dimethylpyrazolo[3,4-b]pyridine-5-carboxylate | 4.54 mmol, 1.15 g | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C | C11H12ClN3O2
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 4 ml | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | Ethyl 4-[(4-methoxybenzenesulfonyl)pyridin-3-ylmethylamino]-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylate | 1.3 g | COC1=CC=C(C=C1)S(=O)(=O)N(C1=C2C(=NC=C1C(=O)OCC)N(N=C2C)C)CC=2C=NC=CC2 | C24H25N5O5S
